US09126993B2
To a mixture of 3-aminophenol (300 mg, 2.70 mmol), cyclopropylmethanol (793 mg, 11.0 mmol) and triphenylphosphine (2.90 g, 11.0 mmol) in THF (6 mL) was added dropwise diethylazodicarboxylate (1.90 g, 11.0 mmol) over a 30 min period. The mixture was stirred at room temperature for 3 h. The solvent was evaporated and the residue was diluted with water, acidified with aqueous 2N HCl and extracted with ether. The aqueous phase was basified with aqueous 2N NaOH and extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated. The resulting crude product was purified by silica gel column chromatograph (petroleum ether/EtOAc 15:1) to afford 3-(cyclopropylmethoxy)benzenamine as a brown oil (260 mg, 58%).

reactant | 3-aminophenol | 2.70 mmol, 300 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | cyclopropylmethanol | 11.0 mmol, 793 mg | C1(CC1)CO | C4H8O
reactant | triphenylphosphine | 11.0 mmol, 2.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 11.0 mmol, 1.90 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(cyclopropylmethoxy)benzenamine | 260 mg, 58% | C1(CC1)COC=1C=C(C=CC1)N | C10H13NO
